US04525330
Isooctadecyl picolinate was prepared using the method of Example 7 from picolinic acid and isooctadecyl alcohol, the commercial material obtained from Farbwerke Hoechst AG and described in Example 8. The light brown, oily product of the reaction had an estimated purity of 93.5%.

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | isooctadecyl alcohol | C(CCCCCCCCCCCCCCC(C)C)O | C18H38O
product | Isooctadecyl picolinate | N1=C(C=CC=C1)C(=O)OCCCCCCCCCCCCCCCC(C)C | C24H41NO2
